US05491148
Proceeding as in Example 1, Method A, but replacing 2,3-dimethyl benzoic acid with 2-butylbenzoic acid and (RS)-3-amino-1-azabicyclo[2.2.2]octane with (S)-3-amino-1-azabicyclo[2.2.2]octane gave (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-butylbenzamide.

reactant | 2-butylbenzoic acid | C(CCC)C1=C(C(=O)O)C=CC=C1 | C11H14O2
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane | NC1CN2CCC1CC2 | C7H14N2
reactant | (S)-3-amino-1-azabicyclo[2.2.2]octane | N[C@@H]1CN2CCC1CC2 | C7H14N2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-butylbenzamide | N12C[C@H](C(CC1)CC2)NC(C2=C(C=CC=C2)CCCC)=O | C18H26N2O
